US04820726
2.0 g of Raney nickel are added to a solution of 10 g of 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]propoxy}-nitrobenzene in 100 ml of tetrahydrofuran and the starting substance is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. Evaporation of the filtrate under reduced pressure gives 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]propoxy}-aniline as a colourless oil.

reactant | 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]propoxy}-nitrobenzene | 10 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C=CC2)[N+](=O)[O-])C=C1)CCC(F)(F)F)OC | C21H22F3NO6
catalyst | Raney nickel | 2.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-{3-[4-acetyl-3-methoxy-2-(3,3,3-trifluoropropyl)-phenoxy]propoxy}-aniline | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C=CC2)C=C1)CCC(F)(F)F)OC | C21H24F3NO4
